US04298529
Trifluoroacetic anhydride (1 ml.) was added to a solution of 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 1 g.) in tetrahydrofuran (3 ml.) and the mixture was treated in a similar manner to that of Example 18 to give 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 0.65 g.).

reactant | Trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 1 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)=O | C12H14BrN3O7S
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 0.65 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
